US05866568
Diborane (192 ml of a 1.0M solution in THF) was added dropwise over 25 minutes to a solution of 2-methyl-3-(4-bromophenyl)propanoic acid (38.9 g) in THF (240 ml) at 0° C. The reaction mixture was stirred for 45 minutes at 0C and then allowed to warm to ambient temperature over 2 hours. Water (120 ml) was added followed by solid potassium carbonate (144 g) and then more water (80 ml). The reaction mixture was extracted with diethyl ether (3×250 ml), the combined organic layers were dried (MgSO4) and the solvent was evaporated to give 2-methyl-3-(4-bromophenyl)propanol as a yellow oil (37.4 g), mass spectrum (+ve CI): 248 (M+NH4)+.

reactant | Diborane | B#B | B2
reactant | 2-methyl-3-(4-bromophenyl)propanoic acid | 38.9 g | CC(C(=O)O)CC1=CC=C(C=C1)Br | C10H11BrO2
reactant | Water | 120 ml | O | H2O
reactant | potassium carbonate | 144 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 80 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 240 ml | C1CCOC1 | C4H8O
product | 2-methyl-3-(4-bromophenyl)propanol | 37.4 g | CC(CO)CC1=CC=C(C=C1)Br | C10H13BrO
